US07687491B2
(19c) Methyl 1-[(5-{5-[4-(2-chlorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methyl]azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1f) using (5-{5-[4-(2-chlorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methanol (0.19 g, 0.46 mmol) that was obtained in Example 19 (19b), carbon tetrabromide (0.18 g, 0.55 mmol), triphenylphosphine (0.14 g, 0.55 mmol), methyl 3-azetidinecarboxylate hydrochloride (0.10 g, 0.69 mmol), and N,N-diisopropylethylamine (0.16 mL, 0.92 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography using a mixed solvent of ethyl acetate and hexane (5:5) to afford the title compound (0.21 g) in a yield of 91% as a pale yellow oily product.

reactant | (5-{5-[4-(2-chlorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methanol | 0.46 mmol, 0.19 g | ClC1=C(OC2=CC=C(C=C2)C2=NC(=NO2)C2=C(C=C(S2)CO)CC)C=CC=C1 | C21H17ClN2O3S
reactant | carbon tetrabromide | 0.55 mmol, 0.18 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.55 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.69 mmol, 0.10 g | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 0.92 mmol, 0.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-[(5-{5-[4-(2-chlorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methyl]azetidine-3-carboxylate | ClC1=C(OC2=CC=C(C=C2)C2=NC(=NO2)C2=C(C=C(S2)CN2CC(C2)C(=O)OC)CC)C=CC=C1 | C26H24ClN3O4S
